US07425551B2
b) N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2,2-dimethyl-malonamic acid
N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2,2-dimethyl-malonamic acid ethyl ester (127 mg, 0.25 mmol) were dissolved in THF (4.5 ml) and water (1.1 ml), treated with lithium hydroxide (25 mg, 1 mmol) and stirred for 18 h at ambient temperature. The mixture is diluted with aqueous saturated sodium carbonate and extracted twice with ethyl acetate. The aqueous phase is acidified with concentrated aqueous hydrogen chloride to pH 0 and extracted twice with ethyl acetate. The acidic organic layers were combined, dried over magnesium sulfate and evaporated to afford 112 mg (93%) of white foam. MS: m/e=472(M−H+).

reactant | N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2,2-dimethyl-malonamic acid ethyl ester | 0.25 mmol, 127 mg | C(C)OC(C(C(=O)N[C@H]1C2=C(C3=C(N(C1=O)CCOCC1=CC=CC=C1)C=CC=C3)C=CC=C2)(C)C)=O | C30H32N2O5
reactant | lithium hydroxide | 1 mmol, 25 mg | [OH-].[Li+]
solvent | THF | 4.5 ml | C1CCOC1 | C4H8O
solvent | water | 1.1 ml | O | H2O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2,2-dimethyl-malonamic acid | 112 mg, 93% | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC(C(C(=O)O)(C)C)=O)C=CC=C3)C=CC=C2 | C28H28N2O5
